US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-N4-(3,5-dimethoxyphenyl)-5-fluoro-4-pyrimidineamine with 3-hydroxyaniline gave N4-(3,5-dimethoxyphenyl)-N2-(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine. LCMS: ret. time: 18.98 min.; purity: 90%; MS (m/e): 357 (MH+).

reactant | 2-chloro-N4-(3,5-dimethoxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC(=C1)OC)OC)F | C12H11ClFN3O2
reactant | 3-hydroxyaniline | OC=1C=C(N)C=CC1 | C6H7NO
product | N4-(3,5-dimethoxyphenyl)-N2-(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | COC=1C=C(C=C(C1)OC)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H17FN4O3
